US08242134B2
2-[((S)-1-Phenyl-propylcarbamoyl)-methyl]-benzoic acid
A mixture of homophthalic anhydride (810 mg, 5 mmol) and (S)-(−)-1-phenylpropylamine (676 mg, 5 mmol) in acetonitrile (15 ml) was heated under microwave irradiation at +150° C. for 15 min. White precipitate was collected by filtration, washed with heptane and dried in vacuo to give pure title compound in 72% yield (1.065 g). Alternatively, to a stirred solution of homophthalic anhydride (16.214 g, 0.1 mol) in acetonitrile (100 ml) (S)-(−)-1-phenylpropylamine (13.83 g, 0.102 mol) was added dropwise (exothermic reaction) and the obtained reaction mixture was refluxed for 5 min. It was allowed to cool and the product was isolated by filtration as above to give 23.4 g of colourless solid, 79% yield. LC-MS (m/z) 298.5 (MH+); tR=1.11. 1H NMR (500 MHz, DMSO-d6): 0.84 (t, J=7.3 Hz, 3H), 1.67 (quintet, J=7.3 Hz, 2H), 3.85 (d of AB system, J=15.1 Hz, 1H), 3.95 (d of AB system, J=15.1 Hz, 1H), 4.66 (q, J=7.6 Hz, 1H), 7.2 (unres. m, 1H), 7.25-7.34 (m, 5H), 7.45 (t, J=7.3 Hz, 1H), 7.8 (d, J=7.8 Hz, 1H), 8.39 (br. d, J=7.7 Hz, 1H, NH).

reactant | homophthalic anhydride | 5 mmol, 810 mg | C1(CC=2C(C(=O)O1)=CC=CC2)=O | C9H6O3
reactant | (S)-(−)-1-phenylpropylamine | 5 mmol, 676 mg | C1(=CC=CC=C1)[C@H](CC)N | C9H13N
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 2-[((S)-1-Phenyl-propylcarbamoyl)-methyl]-benzoic acid | 72% yield | C1(=CC=CC=C1)[C@H](CC)NC(=O)CC1=C(C(=O)O)C=CC=C1 | C18H19NO3
